US05807859
0.46 g of 10-acetamido-10-ethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is dissolved in 25 ml of boiling 2N hydrochloric acid and the solution is stirred for 1 hours at boiling, cooled and concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 60° C. The product obtained is suspended in 15 ml of ethanol and the insoluble product is isolated by filtration, washed twice with 10 ml in total of ethanol and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 0.28 g of 10-amino-10-ethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one sesquihydrochloride is thus obtained, decomposing without melting above 250° C. (Analysis, % calculated C: 56.13, H: 4.87, Cl: 16.57, N: 17.45, O: 4.98, % found C: 56.2, H: 4.5, Cl: 16.5, N: 17.2).

reactant | 10-acetamido-10-ethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.46 g | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC | C17H16N4O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 10-amino-10-ethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one sesquihydrochloride | 0.28 g | Cl.NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC.Cl.Cl.NC3(C=2C=CC=CC2C=2NC(C=1N(C23)C=CN1)=O)CC | InChI=1S/2C15H14N4O.3ClH/c2*1-2-15(16)10-6-4-3-5-9(10)11-12(15)19-8-7-17-13(19)14(20)18-11;;;/h2*3-8H,2,16H2,1H3,(H,18,20);3*1H
